US09422282B2
Oxalic Acid Tert-Butyl Ester Methyl Ester
To a solution of methyl chlorooxoacetate in TBME (1 mmol/ml) was added at 0-5° C. tert-butanol (1.5 equiv.), followed by dropwise addition of pyridine (1.5 equiv.). The resulting mixture was stirred at room temperature for 20 h. Water (15 vol.) was added, the mixture was extracted with TBME twice. The combined organic extracts were washed with brine, dried over anhydrous Na2SO4 and concentrated under vacuum to give a colorless oil.

reactant | methyl chlorooxoacetate | ClC(C(=O)OC)=O | C3H3ClO3
reactant | tert-butanol | 1.5 equiv. | C(C)(C)(C)O | C4H10O
reactant | pyridine | 1.5 equiv. | N1=CC=CC=C1 | C5H5N
reactant | Water | O | H2O
solvent | TBME | 1 mmol/ml | CC(C)(C)OC | C5H12O
product | Oxalic Acid Tert-Butyl Ester Methyl Ester | COC(C(=O)OC(C)(C)C)=O | C7H12O4
